US06521666B1
N-(2,6-Dichlorobenzoyl)-4-(2-carboxyphenyl)-L-phenylalanine methyl ester (57.0 mg) was dissolved in anhydrous THF (1 mL), carbonyldiimidazole (23.5 mg) was added and the mixture was stirred at room temperature under N2 for 2 h. Methanesulfonamide (17.2 mg) and DBU (27 μL) were added and the mixture was stirred for an additional 18 h. The mixture was then heated to 40° C., stirred for 7 h at the same temperature, cooled to room temperature, diluted with EtOAc, washed with 1N HCl and then brine, dried (MgSO4) and evaporated. The residue was purified by preparative TLC (silica gel) using CH2Cl2/MeOH (100:1 to 10:1) as an eluent to give N-(2,6-dichlorobenzoyl)-4-[2-[N-(methanesulfonyl)carbamoyl]phenyl]-L-phenylalanine methyl ester (37.0 mg). ESMS: m/z 549 (MH+).

reactant | N-(2,6-Dichlorobenzoyl)-4-(2-carboxyphenyl)-L-phenylalanine methyl ester | 57.0 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O)=O | C24H19Cl2NO5
reactant | carbonyldiimidazole | 23.5 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Methanesulfonamide | 17.2 mg | CS(=O)(=O)N | CH5NO2S
reactant | DBU | 27 μL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2,6-dichlorobenzoyl)-4-[2-[N-(methanesulfonyl)carbamoyl]phenyl]-L-phenylalanine methyl ester | 37.0 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(NS(=O)(=O)C)=O)=O | C25H22Cl2N2O6S
